Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Taxol
 
Attending: ___
 
Chief Complaint:
F/C
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Please refer to Dr ___ Note: ___ yo female with 
a history of ovarian cancer who is admitted
with fever. The patient states she woke up in the night last
night with a fever of 101 and myalgias. She also has a cough and
headache. She denies any shortness of breath, nausea, diarrhea,
constipation, dysuria, or rashes. She went to clinic today where
she was found to have a fever of 103.1 and increased tachycardia
above her baseline.
In the ED vital signs were notable for a temperature of 100.4 
and
tachycardia to the 130s. A Chest x-ray was unremarkable and a
rapid flu test was negative. Blood and urine cultures were
collected. Labwork was notable for WBC 13.6, Hgb 11.1, and
Lactate 2.7. She was given IV fluids, Tylenol, and ibuprofen. "
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Ms. ___ was diagnosed at age ___. An u/s on ___ showed an
anteverted uterus at 8.7 x 3.9 x 5.1cm in size with 2 adjacent
cysts measuring 11.8 x 4.5 x 4.9cm with the largest cystic
portion measuring 7.1 x 3.8cm in size. A pelvic MRI in ___
showed an enlarged complex cystic mass likely arising form the
right ovary with 2 enlarged complex  cysts measuring 8.5cm and
6.3cm each. There was no other evidence of metastatic disease.
She underwent surgery on ___. Intraoperative findings 
include
complex bilobed right ovarin mass filled with mucinous cystic
fluid which was ruptured intraoperatively. An attempt was made 
to perform a cystectomy for the ___ cyst, but there was also
rupture of the cyst revealing mucinous material. Frozen showed
borderline tumor, so a complete right sided 
salpingo-oophorectomy
was performed. A small 0.5cm nodule was removed from the left
ovary. She had cul de sac biopsies. The appendix was wnl, and an
omental biopsy was obtained. The abdomen was thoroughly
irrigated. 
Pathology from the right ovary demonstrated a 
well-differentiated adenocarcinoma associated with a 7.5cm
mucinous borderline  tumor. There was no LVSI, or malignancy
noted from the right fallopian tube. The cul-de-sac nodule was
consistent with metastatic mucinous carcinoma. Omental biopsy 
and
pelvic  washings were both negative for malignancy.
Prior to initiating chemotherapy, she underwent fertility
preservation with oocyte preservation and egg retrieval. She
began adjuvant treatment with taxol, ___ on ___. 
- ___: C1D1 Taxol, 175mc/m2, ___, AUC 6. She had myalgias
D3-7 Rash developed around day 10;  treated with prednisone x 5
days with resolution.
- ___: C2D1 Hypersensitivity Reaction to taxol ~ 18cc.  Held
remainder of treatment;  plan to refer to allergy
- ___ ___ alone, AUC 6.  Allergy referral 
- ___: C3 ___ AUC6 & Taxol 175 mg/m2 via desens on 11R
- ___ C4 Carboplatin (AUC 6), Paclitaxel 
- ___  C5 Carboplatin (AUC 6), Paclitaxel 

PAST MEDICAL HISTORY:
-Childhood asthma 
-Psoriasis
 
Social History:
___
Family History:
Father - prostate cancer (age ___
PGF- prostate cancer
MGF - lymphoma

 
Physical Exam:
VITAL SIGNS: 98.4 PO 116 / 74 116 20 99 RA
General:  resting in bed NAD 
HEENT:  MMM
CV:  RR, NL S1S2 no S3S4, no MRG
PULM:  CTAB, respirations unlabored 
ABD:  BS+, soft, NTND
LIMBS:  No ___
SKIN:  No rashes on extremities
NEURO:  Grossly WNL
 
Pertinent Results:
___ 05:30AM BLOOD WBC-5.9 RBC-2.91* Hgb-9.1* Hct-27.2* 
MCV-94 MCH-31.3 MCHC-33.5 RDW-14.1 RDWSD-48.0* Plt ___
___ 11:20AM BLOOD WBC-12.7*# RBC-3.30* Hgb-10.6* Hct-30.2* 
MCV-92 MCH-32.1* MCHC-35.1 RDW-14.7 RDWSD-47.7* Plt ___
___ 05:30AM BLOOD ALT-38 AST-23 LD(LDH)-193 AlkPhos-75 
TotBili-0.2
___ 11:20AM BLOOD ALT-54* AST-29 AlkPhos-97 TotBili-0.3
___ 05:30AM BLOOD Albumin-3.7 Calcium-9.0 Phos-4.7* Mg-1.7
___ 11:20AM BLOOD Calcium-9.0 Phos-1.7* Mg-1.4*
 
Brief Hospital Course:
___ w/ stage IIB ovarian endometrioid adenocarcinoma cancer who
is admitted with non-neutropenic fevers up to 103.1F, myalgias,
productive cough, and elevated HR, now improved off abx.

# Sepsis
Most likely ILI in light of tachycardia, localizing URI 
symptoms.
No radiographic evidence of PNA or lower resp infection on
CT-chest. Rapid flu negative x2. Unlikely just URI in light of 
high
grade fevers, nor pertussis. Fevers now improving off abx. She 
improved
with supportive therapy with decongestants and cough 
suppressants. 

[ ] f/u blood cx (NGTD)
[ ] f/u urine strep/leg 
[ ] beta-strep throat swab 
[ ] consider antibiotics if cough persists as outpatient 

# IIB ovarian endometrioid adenocarcinoma cancer 
She completed chemotherapy recently with cycle 6 of carboplatin
and taxol, last administered on ___. Case discussed with Dr 
___. 
[ ] will f/u Dr ___ on ___ as originally scheduled
[ ] will repeat CT chest in 3 months to follow the lung nodule 
seen on CT

# Sinus Tachycardia
Has had baseline sinus tachycardia for the last couple of
months attributed most likely from anemia, chemotherapy, 
deconditioning. She
states it started right after C4 when her new baseline became
100-120. CTA chest done ___ revealed no e/o PE. HR 100-116 
range at time of discharge. 
[ ] TSH pending
[ ] consider TTE as outpatient if ST persists 

# Anemia: likely due antineoplastic therapy. Stable but likely
dropped inpatient due to dilution from IV hydration 

# Hypomagnesemia: 1.5 on admission. Likely due to carboplatin. 
Repleted with IV mag and discharged on PO repletion. 
[ ] f/u Mg level as outpatient

# Hypokalemia: to 3.1, likely exacerbated by the hypomagnesemia, 
fluids, repleted and improved to 3.8 on discharge.  

# Hypophosphatemia: repleting w/ PO phos. 

FEN: Regular diet
DVT PROPHYLAXIS: Enoxaparin while inpatient
ACCESS: PORT
CODE STATUS: FC
DISPO: Home w/o services
BILLING: >30 min spent coordinating care for discharge 
______________
___, D.O.
Heme/Onc Hospitalist
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO Q6H:PRN nausea, anxiety, insomnia  
2. Famotidine 20 mg PO DAILY:PRN GERD 
3. Nexplanon (etonogestrel) 68 mg Other ASDIR 

 
Discharge Medications:
1.  Guaifenesin-CODEINE Phosphate ___ mL PO Q4H:PRN cough 
RX *codeine-guaifenesin [Cheratussin AC] 10 mg-100 mg/5 mL 15 ml 
by mouth every 4 hours Refills:*0 
2.  Magnesium Oxide 400 mg PO BID 
RX *magnesium oxide 400 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0 
3.  Pseudoephedrine 30 mg PO Q6H:PRN nasal congestion 
RX *pseudoephedrine HCl 30 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*14 Tablet Refills:*0 
4.  Famotidine 20 mg PO DAILY:PRN GERD  
5.  LORazepam 0.5 mg PO Q6H:PRN nausea, anxiety, insomnia   
6.  Nexplanon (etonogestrel) 68 mg Other ASDIR  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Influenza-Like Illness
Sinus Tachycardia
Stage IIB ovarian endometrioid adenocarcinoma cancer 
Anemia
Hypomagnesemia
Hypokalemia
Hypophosphatemia 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you at ___. You were admitted 
with an influenza-like illness but you were found to have 
negative flu swabs twice. You also had a CT of your chest which 
did not reveal pneumonia nor lung clots. Your blood and urine 
cultures results thus far have been negative. Your symptoms are 
most consistent with a viral syndrome for which you did not need 
antibiotics. You recovered like a champ and will likely need 
another week or two before you start feeling back to your normal 
self. 

If you start to have fevers again or if your cough becomes 
worse, please let your oncologist know. 

Regards,
Your ___ team
 
Followup Instructions:
___